US07923450B2
a) {3-[1-Dimethylamino-meth-(E)-ylidene]-2-oxo-cyclohexyl}-acetic acid ethyl ester
Ethyl 2-cyclohexanoneacetate (100 mg, 0.54 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (116 mg) as a brown oil which was used directly in the next step. MS ISP (m/e): 194.2 (100) [(M-EtOH+H)+], 240.2 (90) [(M+H)+].

reactant | Ethyl 2-cyclohexanoneacetate | 0.54 mmol, 100 mg | CCOC(=O)CC1CCCCC1=O | C10H16O3
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | {3-[1-Dimethylamino-meth-(E)-ylidene]-2-oxo-cyclohexyl}-acetic acid ethyl ester | 116 mg | C(C)OC(CC1C(/C(/CCC1)=C/N(C)C)=O)=O | C13H21NO3
